US07678795B2
(1S,8R)-5-(1-Benzyl-5-methyl-1H-pyrazol-4-yl)-1,11,11-trimethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene
light brown amorphous solid. MS (ESI): 359.1 (MH+). Prepared from (1S,4R)-1,7,7-trimethyl-bicyclo[2.2.1]heptane-2,3-dione, [2-(1-Benzyl-5-methyl-1H-pyrazol-4-yl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | (1S,4R)-1,7,7-trimethyl-bicyclo[2.2.1]heptane-2,3-dione | C[C@]12C(C([C@H](CC1)C2(C)C)=O)=O | C10H14O2
reactant | [2-(1-Benzyl-5-methyl-1H-pyrazol-4-yl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C=1C=NN(C1C)CC1=CC=CC=C1 | C15H19N2O4P
reactant | hydrazine monohydrate | O.NN
product | (1S,8R)-5-(1-Benzyl-5-methyl-1H-pyrazol-4-yl)-1,11,11-trimethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene | C(C1=CC=CC=C1)N1N=CC(=C1C)C1=NN=C2[C@]3(CC[C@@H](C2=C1)C3(C)C)C | C23H26N4
